US07648987B2
A solution of 1-(1H-indol-2-yl)-3-(methylthio)imidazo[1,5-a]pyrazin-8-amine (250 mg, 0.85 mmol) in AcOH (10 mL) was treated with 48% hydrogen bromide (0.6 mL) and the mixture heated 120° C. for 24 h. The reaction mixture was then cooled and the suspended solid isolated by filtration and washed with hexane to afford 240 mg of 8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazine-3(2H)-thione hydrobromide. 1H NMR (400 MHz, MeOD) δ ppm 6.89 (d, J=6.06 Hz, 1H), 7.03 (s, 1H), 7.17 (tt, J=7.07, 0.76 Hz, 1H), 7.31 (tt, J=7.33, 1.01 Hz, 1H), 7.52 (dd, J=0.76 Hz, 1H), 7.63-7.76 (m, 2H); MS (ES+): m/z 282.07 [MH+].

reactant | 1-(1H-indol-2-yl)-3-(methylthio)imidazo[1,5-a]pyrazin-8-amine | 0.85 mmol, 250 mg | N1C(=CC2=CC=CC=C12)C=1N=C(N2C1C(=NC=C2)N)SC | C15H13N5S
reactant | hydrogen bromide | 0.6 mL | Br | BrH
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazine-3(2H)-thione hydrobromide | 240 mg | Br.NC=1C=2N(C=CN1)C(NC2C=2NC1=CC=CC=C1C2)=S | InChI=1S/C14H11N5S.BrH/c15-13-12-11(18-14(20)19(12)6-5-16-13)10-7-8-3-1-2-4-9(8)17-10;/h1-7,17H,(H2,15,16)(H,18,20);1H
